### PR TITLE
Added proof of iso from section and retraction

### PR DESCRIPTION
**Pull request by jmarkakis**

### CODE REVIEW

File: src/Categories/Morphism/Properties.agda [hunk 1]
```diff
@@ -150,3 +150,66 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
 f ∘↠ g = record { mor = mor f ∘ mor g ; epi = Epi-∘ (epi f) (epi g) }
   where
     open _↠_
+
+--------------------------------------------------------------------------------
+-- Isomorphism from a section and a retraction
+
+EpicRetract⇒Iso : ∀ {X Y} {f : Y ⇒ X} {r : X ⇒ Y} → 
+                   r RetractOf f → Epi f → Iso f r
+EpicRetract⇒Iso {X} {Y} {f} {r} rf≈id e = record {
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:159]: Perhaps call it `epi` rather than just `e`?

File: src/Categories/Morphism/Properties.agda [hunk 2]
```diff
@@ -150,3 +150,66 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
...
     open _↠_
+
+--------------------------------------------------------------------------------
+-- Isomorphism from a section and a retraction
+
+EpicRetract⇒Iso : ∀ {X Y} {f : Y ⇒ X} {r : X ⇒ Y} → 
+                   r RetractOf f → Epi f → Iso f r
+EpicRetract⇒Iso {X} {Y} {f} {r} rf≈id e = record { 
+  isoˡ = rf≈id ; 
+  isoʳ = e (f ∘ r) id (begin
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:161]: Please use a local `where` clause instead of an inline proof - that scales better in the long term (i.e. for the users of the resulting `Iso`)

File: src/Categories/Morphism/Properties.agda [hunk 3]
```diff
@@ -150,3 +150,66 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
...
+    (f ∘ r) ∘ f ≈⟨ assoc ⟩
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:162]: Look at the various push/pull combinators - these two lines can be combined into one.

File: src/Categories/Morphism/Properties.agda [hunk 4]
```diff
@@ -150,3 +150,66 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
...
+    f ∘ (r ∘ f) ≈⟨ refl⟩∘⟨ rf≈id ⟩
+    f ∘ id      ≈⟨ identityʳ ⟩
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:164]: Look at `id-comm` and `id-comm-sym`.

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
Very minor changes (throughout) would be appreciated to make this more in line with the rest of the library - but these are very welcome additions, thank you.

File: src/Categories/Morphism/Properties.agda (hunk 1 above)
Comment (jmarkakis) [reply src/Categories/Morphism/Properties.agda]: I made this change, thanks.

File: src/Categories/Morphism/Properties.agda (hunk 3 above)
Comment (jmarkakis) [reply src/Categories/Morphism/Properties.agda]: I used those combinators and the ones suggested below, to make all proofs shorter

File: src/Categories/Morphism/Properties.agda (hunk 4 above)
Comment (jmarkakis) [reply src/Categories/Morphism/Properties.agda]: Thanks for the suggestion

File: src/Categories/Morphism/Properties.agda (hunk 2 above)
Comment (jmarkakis) [reply src/Categories/Morphism/Properties.agda]: Unfortunately, I am still new to agda, and I am not sure how to use a where clause in this situation. What change are you suggesting?

File: src/Categories/Morphism/Properties.agda [hunk 5]
```diff
@@ -150,3 +150,59 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
...
+-- Isomorphism from a section and a retraction
+
+EpicRetract⇒Iso : ∀ {X Y} {f : Y ⇒ X} {r : X ⇒ Y} → 
+                   r RetractOf f → Epi f → Iso f r
+EpicRetract⇒Iso {f = f} {r} rf≈id epi = record { 
+  isoˡ = rf≈id ; 
+  isoʳ = epi (f ∘ r) id (begin
+    (f ∘ r) ∘ f ≈⟨ pullʳ rf≈id ⟩
+    f ∘ id      ≈⟨ id-comm ⟩
+    id ∘ f ∎) }
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:164]: Warning: untested.
```agda
EpicRetract⇒Iso {f = f} {r} rf≈id epi = record { 
  isoˡ = rf≈id ; 
  isoʳ = epi (f ∘ r) id frf≈idf
}
  where
    frf≈idf : (f ∘ r) ∘ f ≈ id ∘ f 
    frf≈idf = begin
      (f ∘ r) ∘ f ≈⟨ pullʳ rf≈id ⟩
      f ∘ id      ≈⟨ id-comm ⟩
      id ∘ f ∎
```

File: src/Categories/Morphism/Properties.agda [hunk 6]
```diff
@@ -150,3 +150,59 @@ _∘↠_ : B ↠ C → A ↠ B → A ↠ C
...
+
+SectionRetraction⇒Isoʳ : ∀ {X Y} {f : Y ⇒ X} {s r : X ⇒ Y} → 
+                         s SectionOf f → r RetractOf f → Iso f r
+SectionRetraction⇒Isoʳ {f = f} {s} {r} fs≈id rf≈id = record { 
+  isoˡ = rf≈id ; 
+  isoʳ = begin
+    f ∘ r ≈⟨ refl⟩∘⟨ ⟺ (≈-SectionRetraction fs≈id rf≈id) ⟩
+    f ∘ s ≈⟨ fs≈id ⟩
+    id ∎ }
+
```
Comment (JacquesCarette) [inline src/Categories/Morphism/Properties.agda:199]: please delete these extra blank lines

**Review by JacquesCarette — CHANGES_REQUESTED** [review]
This is looking much nicer now, thanks. I give one example of a `where` in the comments.

**Comment by jmarkakis** [comment]
I believe that the last pushed resolves both the empty lines, and adds the `where` clauses where needed

**Review by JacquesCarette — APPROVED** [review]
